US08629167B2
4-Cyano-N′-((2R,3R)-2-(4-cyanonaphthalen-1-ylamino)-3-hydroxybutanoyl)benzohydrazide
To a pre-cooled (−45° C.) solution of (2R,3R)-2-(4-cyanonaphthalen-1-ylamino)-3-hydroxybutanoic acid (1.50 g, 5.55 mmol) and 4-cyanobenzohydrazide (894 mg, 5.55 mmol) in anhydrous THF (80 mL) was added 1-Hydroxybenzotriazole monohydrate (850 mg, 5.55 mmol) and N-(3-Dimethylaminopropyl)-Y-ethylcarbodimide-HCl (2.13 g, 11.1 mmol) at −45° C. followed by triethylamine (1.55 mL, 11.1 mmol). The reaction mixture warmed to room temperature and stirred for 24 h, then quenched with 5% aq. citric acid (300 mL). The solution was extracted with EtOAc (300 mL). The organic extract was washed with 5% aq. citric acid (2×150 mL), sat. aq. NaHCO3 (3×150 mL), H2O (2×150 mL), dried (Na2SO4), filtered and concentrated under reduced pressure to provide the title compound as a light brown solid (2.12 g, 92%): 1H NMR (400 MHz, DMSO-d6, δ in ppm) 10.84 (s, 1H), 10.44 (s, 1H), 8.48 (d, J=8.8 Hz, 2H), 8.04-7.93 (m, 4H), 7.91 (d, J=8.2 Hz, 1H), 7.74 (t, J=6.8 Hz, 1H), 7.62 (t, J=7.2 Hz, 1H), 6.92 (d, J=8.2 Hz, 1H), 6.75 (d, J=8.2 Hz, 1H), 5.25 (d, J=4.5 Hz, 1H), 4.32-3.97 (m, 3H), 1.32 (d, J=6.1 Hz, 3H).

reactant | (2R,3R)-2-(4-cyanonaphthalen-1-ylamino)-3-hydroxybutanoic acid | 5.55 mmol, 1.50 g | C(#N)C1=CC=C(C2=CC=CC=C12)N[C@@H](C(=O)O)[C@@H](C)O | C15H14N2O3
reactant | 4-cyanobenzohydrazide | 5.55 mmol, 894 mg | C(#N)C1=CC=C(C(=O)NN)C=C1 | C8H7N3O
reactant | 1-Hydroxybenzotriazole monohydrate | 5.55 mmol, 850 mg | O.ON1N=NC2=C1C=CC=C2
reactant | triethylamine | 11.1 mmol, 1.55 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 4-Cyano-N′-((2R,3R)-2-(4-cyanonaphthalen-1-ylamino)-3-hydroxybutanoyl)benzohydrazide | 2.12 g, 92% | C(#N)C1=CC=C(C(=O)NNC([C@@H]([C@@H](C)O)NC2=CC=C(C3=CC=CC=C23)C#N)=O)C=C1 | C23H19N5O3
